US08729078B2
3-Amino-1H-pyrazole-4-carbonitrile (10 g, 92.5 mmol) was dissolved in 100 mL of DMF and the solution was stirred at 0° C. Sodium hydride (60% in mineral oil, 7.4 g, 185 mmol) was added in small portions. The mixture was stirred for 30 minutes and (2-(chloromethoxy)ethyl)trimethylsilane (90% purity, 17.1 g, 92.5 mmol) was added. The mixture was stirred at room temperature for 1 hr and then extracted with chloroform and aqueous ammonium chloride solution. The organic layer was washed with brine and dried over sodium sulfate, filtered and concentrated. The residue was purified through ISCO flash column chromatography (220 g silica gel, ethyl acetate in hexanes 5% to 40% in 25 minutes). The fractions with a slightly larger Rf as the major component were evaporated and then crystallized from 7% ethyl acetate in hexanes to give a white crystalline pure compound as 1N-trimethylsilylethoxymethyl-5-amino-4-cyanopyrazole (3.75 g). The fractions with a slightly lower Rf as the major component were evaporated and then crystallized from 4% ethyl acetate in hexanes to give a pure crystalline compound as 1N-trimethylsilylethoxymethyl-3-amino-4-cyanopyrazole (3.50 g). The mother liquor and fractions containing both components were combined and evaporated to give a mixture (7.4 g, total yield for this step 67%). For 1N-trimethylsilylethoxymethyl-5-amino-4-cyanopyrazole: LC/MS calcd for C10H18N4OSi (m/e) 238.12, obsd 237.2 (M−H, ES−); 1H NMR (400 MHz, DMSO-d6) δ ppm 0.00 (s, 9H), 0.82 (t, J=8.0 Hz, 2H), 3.53 (t, J=8.0 Hz, 2H), 5.24 (s, 2H) 6.80 (s, 2H) 7.58 (s, 1H); For 1N-trimethylsilylethoxymethyl-3-amino-4-cyanopyrazole: 1H NMR (400 MHz, DMSO-d6) δ ppm 0.00 (s, 9H), 0.83 (t, J=8.0 Hz, 2H), 3.51 (t, J=8.0 Hz, 2H), 5.15 (s, 2H), 5.65 (s, 2H), 8.28 (s, 1H).

reactant | 3-Amino-1H-pyrazole-4-carbonitrile | 92.5 mmol, 10 g | NC1=NNC=C1C#N | C4H4N4
reactant | Sodium hydride | 185 mmol, 7.4 g | [H-].[Na+]
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 92.5 mmol, 17.1 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | trimethylsilylethoxymethyl-5-amino-4-cyanopyrazole | 3.75 g | C[Si](C)(C)CCOCC1=NNC(=C1C#N)N | C10H18N4OSi
